US05057526
2-(4-Pyridinyl)-7,7-dimethyl-5,7-dihydropyrrolo[3,2-f]benzoxazol-6-one
4 g. 1,3-Dihydro-3,3-dimethyl-6-hydroxy-5-nitro-2H-indol-2-one in 100 ml. glacial acetic acid were hydrogenated in the presence of 1 g. 10% palladium/charcoal at ambient temperature and normal pressure until 1.3 liters of hydrogen had been taken up. The catalyst was filtered off and 2.1 ml. 4-pyridinecarbaldehyde were poured into the filtrate, the solution thereby becoming yellow-orange coloured. While stirring, air was passed through the solution for 3 days, whereafter it was evaporated to dryness in a vacuum, the residue was digested with an aqueous solution of ammonia and water and purified by column chromatography (800 ml. silica gel; elution agent dichloromethane:methanolic ammonia=20:1 v/v). The appropriate fractions were evaporated in a vacuum and the crystalline residue was digested with ethanol and filtered off with suction to give 4.0 g. of beige crystals which were recrystallised from ethanol with treatment with fullers' earth. There were obtained 2.5 g. of the title compound in the form of colourless crystals; m.p. 336°-338° C. Yield 49% of theory.

reactant | 1,3-Dihydro-3,3-dimethyl-6-hydroxy-5-nitro-2H-indol-2-one | CC1(C(NC2=CC(=C(C=C12)[N+](=O)[O-])O)=O)C | C10H10N2O4
reactant | hydrogen | 1.3 liters | [H][H] | H2
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | [Pd] | Pd
product | 2-(4-Pyridinyl)-7,7-dimethyl-5,7-dihydropyrrolo[3,2-f]benzoxazol-6-one | Yield 49% | N1=CC=C(C=C1)C=1OC2=C(N1)C=C1C(=C2)NC(C1(C)C)=O | C16H13N3O2
